US04833143
1-Methylpyrazole (4.8 g) was added to a mixture of dry ether (60 ml) and a 1.7M solution of butyllithium in hexane (30 ml) under nitrogen at a temperature of less than 5° C. N,N,N'N'-Tetramethylethylenediamine (TMEDA) (8.3 g) was added and the mixture stirred at 0°-5° C. for one and three quarter hours and then 1-(4-chlorophenyl)cyclobutanecarbonitrile (6.0 g) was added and the mixture stirred for 90 minutes at a temperature in the range 0 to 5° C. Water was added and the reaction mixture extracted with ether. The extract was washed, dried and evaporated to give an oil which is [1-(4-chlorophenyl)cyclobutyl](1-methylpyrazol-5yl)methanimine. The imine was stirred with a mixture of sodium borohydride (2 g) in diethyleneglycoldimethyl ether (100 ml) under nitrogen at 95° C. for two hours. The mixture was poured into water and extracted with ether. The extract was washed, dried and evaporated to give a residue which was dissolved in dry ether. Hydrogen chloride gas was passed through the ethereal solution to give a hydrochloride salt of [1-(4-chlorophenyl)cyclobutyl](1-methylpyrazol-5-yl)methylamine hydrochloride (m.p. 316°-318° C.) containing 1.25 moles of hydrochloride and 0.25 moles of water.

reactant | 1-Methylpyrazole | 4.8 g | CN1N=CC=C1 | C4H6N2
reactant | butyllithium | C(CCC)[Li]
reactant | 1-(4-chlorophenyl)cyclobutanecarbonitrile | 6.0 g | ClC1=CC=C(C=C1)C1(CCC1)C#N | C11H10ClN
reactant | [1-(4-chlorophenyl)cyclobutyl](1-methylpyrazol-5yl)methanimine | ClC1=CC=C(C=C1)C1(CCC1)C(=N)C1=CC=NN1C | C15H16ClN3
reactant | sodium borohydride | 2 g | [BH4-].[Na+]
reactant | Hydrogen chloride | Cl | ClH
solvent | hexane | 30 ml | CCCCCC | C6H14
solvent | ether | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 60 ml | CCOCC | C4H10O
solvent | water | O | H2O
product | [1-(4-chlorophenyl)cyclobutyl](1-methylpyrazol-5-yl)methylamine hydrochloride | Cl.ClC1=CC=C(C=C1)C1(CCC1)NCC1=CC=NN1C | InChI=1S/C15H18ClN3.ClH/c1-19-14(7-10-18-19)11-17-15(8-2-9-15)12-3-5-13(16)6-4-12;/h3-7,10,17H,2,8-9,11H2,1H3;1H
